*SRC=1N4734A;DI_1N4734A;Diodes;Zener <=10V; 5.60V  1.00W   Diodes Inc.

*SYM=HZEN
.SUBCKT Z1N4734A  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 4.48
.MODEL DF D ( IS=73.6p RS=0.620 N=1.10
+ CJO=165p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=14.7f RS=0.256 N=1.49 )
.ENDS

*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  

*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal

*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com


* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt LM741/NS 1 2 3 4 5
*
c1   11 12 8.661E-12
c2    6  7 30.00E-12
dc    5 53 dy
de   54  5 dy
dlp  90 91 dx
dln  92 90 dx
dp    4  3 dx
egnd 99  0 poly(2),(3,0),(4,0) 0 .5 .5
fb    7 99 poly(5) vb vc ve vlp vln 0 10.61E6 -1E3 1E3 10E6 -10E6
ga    6  0 11 12 188.5E-6
gcm   0  6 10 99 5.961E-9
iee  10  4 dc 15.16E-6
hlim 90  0 vlim 1K
q1   11  2 13 qx
q2   12  1 14 qx
r2    6  9 100.0E3
rc1   3 11 5.305E3
rc2   3 12 5.305E3
re1  13 10 1.836E3
re2  14 10 1.836E3
ree  10 99 13.19E6
ro1   8  5 50
ro2   7 99 100
rp    3  4 18.16E3
vb    9  0 dc 0
vc    3 53 dc 1
ve   54  4 dc 1
vlim  7  8 dc 0
vlp  91  0 dc 40
vln   0 92 dc 40
.model dx D(Is=800.0E-18 Rs=1)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx NPN(Is=800.0E-18 Bf=93.75)
.ends


*$
.subckt ALT1001 1 2 3 4 5
A1 0 N004 0 0 0 0 X 0 OTA g=150u Iout=7u Cout=28p en=9.8n enk=4 Vhigh=1e308 Vlow=-1e308
A2 2 1 0 0 0 0 0 0 OTA g=0 in=.1p ink=70
C2 N004 0 .75p Rpar=100K noiseless
R1 3 X 10G noiseless
R2 X 4 10G noiseless
M1 3 N005 5 5 N temp=27
M2 4 N005 5 5 P temp=27
D1 5 X X
C3 N005 0 .075p Rpar=1Meg noiseless
D4 2 1 DI
C5 2 1 1p Rpar=80Meg
C7 3 5 .2p
C8 5 4 .2p
B1 0 N004 I=10u*dnlim(uplim(V(1),V(3)-.9,.3), V(4)+.9, .3)+1n*V(1)
B2 N004 0 I=10u*dnlim(uplim(V(2),V(3)-.899,.3), V(4)+.899, .3)+1n*V(2)
B3 0 N005 I=1u*dnlim(uplim(V(x),V(3)-.9,.5), V(4)+.9,.5)+1p*V(x)
C9 3 1 .5p Rpar=1.12T noiseless
C4 1 4 .5p Rpar=1.12T noiseless
C6 2 4 .5p Rpar=1.12T noiseless
C10 3 2 .5p Rpar=1.12T noiseless
.model X D(Ron=10K Roff=1T Vfwd=.82 Vrev=.82 epsilon=.1 revepsilon=.1)
.model N VDMOS(Vto=-300m Kp=50m)
.model P VDMOS(Vto=300m Kp=50m pchan)
.model DI D(Ron=1.15K Roff=1G Vfwd=1 Vrev=1 epsilon=1 revepsilon=1 noiseless)
.ends ALT1001
*




.MODEL QBC548A/PLP NPN( 
+ IS = 1.533E-14
+ NF = 1.002
+ ISE = 7.932E-16
+ NE = 1.436
+ BF = 178.7
+ IKF = 0.1216
+ VAF = 69.7
+ NR = 1.004
+ ISC = 8.305E-14
+ NC = 1.207
+ BR = 8.628
+ IKR = 0.1121
+ VAR = 44.7
+ RB = 1
+ IRB = 1E-06
+ RBM = 1
+ RE = 0.6395
+ RC = 0.6508
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 1.61E-11
+ VJE = 0.4209
+ MJE = 0.3071
+ TF = 4.995E-10
+ XTF = 139
+ VTF = 3.523
+ ITF = 0.7021
+ PTF = 0
+ CJC = 4.388E-12
+ VJC = 0.2
+ MJC = 0.2793
+ XCJC = 0.6193
+ TR = 1E-32
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.7762 )
*$



* TIP30 complementario

q1 1 2 3 TIP29

.MODEL TIP29	   NPN(Is=2.447p Xti=3 Eg=1.11 Vaf=100 Bf=208.2 Ise=70.69p
+   Ne=1.565 Ikf=.9743 Nk=.6134 Xtb=1.5 Br=12.59 Isc=11.68n
+   Nc=1.835 Ikr=3.86 Rc=.4685 Cjc=142p Mjc=.4353 Vjc=.75 Fc=.5
+   Cje=188.5p Mje=.4878 Vje=.75 Tr=194.2n Tf=19.85n Itf=164.1
+   Xtf=5.945 Vtf=10 Rb=.1)

*$








* TIP29 complementario

q1 1 2 3 TIP30


.MODEL TIP30	    PNP(Is=51.23f Xti=3 Eg=1.11 Vaf=100 Bf=434.1 Ise=51.23f Ne=1.22
+   Ikf=.3883 Nk=.5544 Xtb=2.2 Br=55.47 Isc=51.23f Nc=1.205
+   Ikr=10.87 Rc=.3443 Cjc=136.9p Mjc=.3155 Vjc=.75 Fc=.5
+   Cje=179.9p Mje=.4294 Vje=.75 Tr=20.25n Tf=13.05n Itf=6.85
+   Xtf=1.573 Vtf=10 Rb=.1)
*$







* TIP32 complementario

q1 1 2 3 TIP31

.MODEL TIP31	   NPN(Is=2.447p Xti=3 Eg=1.11 Vaf=100 Bf=208.2 Ise=70.69p
+   Ne=1.565 Ikf=.9743 Nk=.6134 Xtb=1.5 Br=12.59 Isc=11.68n
+   Nc=1.835 Ikr=3.86 Rc=.4685 Cjc=142p Mjc=.4353 Vjc=.75 Fc=.5
+   Cje=188.5p Mje=.4878 Vje=.75 Tr=194.2n Tf=19.85n Itf=164.1
+   Xtf=5.945 Vtf=10 Rb=.1)
*$





* TIP31 complementario

q1 1 2 3 TIP32

.MODEL TIP32	    PNP(Is=51.23f Xti=3 Eg=1.11 Vaf=100 Bf=434.1 Ise=51.23f Ne=1.22
+   Ikf=.3883 Nk=.5544 Xtb=2.2 Br=55.47 Isc=51.23f Nc=1.205
+   Ikr=10.87 Rc=.3443 Cjc=136.9p Mjc=.3155 Vjc=.75 Fc=.5
+   Cje=179.9p Mje=.4294 Vje=.75 Tr=20.25n Tf=13.05n Itf=6.85
+   Xtf=1.573 Vtf=10 Rb=.1)
*$



**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT tip140 1 2 3
* Model generated on Feb  8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 19.6725
D1 3 1 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=2.92836e-16 BF=233.76 NF=1.2 VAF=1000
+IKF=0.222129 ISE=4.61322e-11 NE=2.48158 BR=1.89854
+NR=0.75 VAR=168.458 IKR=0.108495 ISC=9.99999e-14
+NC=2.00001 RB=7.90758 IRB=0.2 RBM=7.90758
+RE=0.275456 RC=1.42279 XTB=0.232595 XTI=3.02293 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS

**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT tip145 1 2 3
* Model generated on Feb  8, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 9.26065
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 40
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.67157e-09
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.03024e-14 BF=257.093 NF=1.2 VAF=679.126
+IKF=0.190032 ISE=1.23159e-13 NE=1.73997 BR=1.10206
+NR=1.19838 VAR=126.182 IKR=0.103332 ISC=1.23159e-13
+NC=2 RB=5.06065 IRB=0.2 RBM=5.06065
+RE=0.199903 RC=2.01466 XTB=0.354371 XTI=3.01199 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS

.SUBCKT TIP120 1 2 3
* TERMINALS: C B E
* 60 Volt 5 Amp NPN Darlington Transistor 08-03-1995
Q1 1 2 4 QPWR .1
Q2 1 4 3 QPWR
R1 2 4 10K
R2 4 3 150
D1 3 1 DSUB
.MODEL QPWR NPN (IS=6P NF=1 BF=116 VAF=139 IKF=3.2 ISE=376P NE=2
+ BR=4 NR=1 VAR=20 IKR=4.8 RE=.33 RB=1.32 RC=.132 XTB=1.5
+ CJE=676P VJE=.74 MJE=.45 CJC=97.5P VJC=1.1 MJC=.24 TF=85.3N TR=3.68U)
.MODEL DSUB D (IS=6P N=1 RS=.33 BV=60 IBV=.001 CJO=97.5P TT=3.68U)
.ENDS
* TIP120, TEXAS INSTRUMENTS POWER PRODUCTS DATA BOOK, 1985



.SUBCKT TIP125 1 2 3
* TERMINALS: C B E
* 60 Volt 5 Amp PNP Darlington Transistor 08-03-1995
Q1 1 2 4 QPWR .1
Q2 1 4 3 QPWR
R1 2 4 10K
R2 4 3 150
D1 1 3 DSUB
.MODEL QPWR PNP (IS=6P NF=1 BF=111 VAF=139 IKF=2.24 ISE=330P NE=2
+ BR=4 NR=1 VAR=20 IKR=3.36 RE=.33 RB=1.32 RC=.132 XTB=1.5
+ CJE=1.03N VJE=.74 MJE=.45 CJC=149P VJC=1.1 MJC=.24 TF=85.3N TR=3.68U)
.MODEL DSUB D (IS=6P N=1 RS=.33 BV=60 IBV=.001 CJO=149P TT=3.68U)
.ENDS
* TIP125, TEXAS INSTRUMENTS POWER PRODUCTS DATA BOOK, 1985


*.model TIP41C	ako:NSC_4A	NPN()	; case TO-220
.MODEL TIP41C	   NPN(Is=457.5f Xti=3 Eg=1.11 Vaf=50 Bf=156.7 Ise=1.346p Ne=1.34
+   Ikf=3.296 Nk=.5961 Xtb=2.2 Br=7.639 Isc=604.1f Nc=2.168
+   Ikr=8.131m Rc=91.29m Cjc=278.7p Mjc=.385 Vjc=.75 Fc=.5 Cje=433p
+   Mje=.5 Vje=.75 Tr=1.412u Tf=37.34n Itf=35.68 Xtf=1.163 Vtf=10
+   Rb=.1)
*$

*.model TIP42C	ako:NSC_5A	PNP()	; case TO-220
.MODEL TIP42C	   PNP(Is=66.19f Xti=3 Eg=1.11 Vaf=100 Bf=137.6 Ise=862.2f
+   Ne=1.481 Ikf=1.642 Nk=.5695 Xtb=2 Br=5.88 Isc=273.5f Nc=1.24
+   Ikr=3.555 Rc=79.39m Cjc=870.4p Mjc=.6481 Vjc=.75 Fc=.5
+   Cje=390.1p Mje=.4343 Vje=.75 Tr=235.4n Tf=23.21n Itf=71.33
+   Xtf=5.982 Vtf=10 Rb=.1)
*$
